US08222416B2
To a suspension of 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine (5.0 g, 19.3 mmol) in dry tetrahydrofuran (125 mL) at −78° C. was added lithium diisopropylamide (14.5 mL, 29 mmol) dropwise. The mixture was stirred at −78° C. for 10 min and then treated with 3-methylbutanal (3.9 g, 45 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1.5 h. At this time, the reaction was quenched with a saturated aqueous sodium chloride solution. The resulting mixture was then extracted with ethyl acetate (3×150 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (10-15% ethyl acetate/petroleum ether) afforded 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol (3.4 g, 51.8%) as a white solid: 1H NMR (300 MHz, d6-DMSO): δ 8.29 (d, 1H, J=3.3 Hz), 8.10 (d, 2H, J=7.8 Hz), 7.96 (d, 1H, J=7.5 Hz), 7.72-7.59 (m, 3H), 7.28-7.24 (m, 1H), 6.81 (s, 1H), 5.55-5.46 (m, 2H), 2.05-1.90 (m, 1H), 1.81-1.73 (m, 1H), 1.04 (d, 3H, J=6.3 Hz), 0.97 (s, 3H), 0.95 (s, 3H).

reactant | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridine | 19.3 mmol, 5.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=CC2 | C13H10N2O2S
reactant | lithium diisopropylamide | 29 mmol, 14.5 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methylbutanal | 45 mmol, 3.9 g | CC(CC=O)C | C5H10O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3-methyl-butan-1-ol | 3.4 g, 51.8% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)C)O | C18H20N2O3S
